US08791123B2
Step B: Preparation of (R)-(5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)(3-hydroxy-3-methylazetidin-1-yl)methanone
To a DMF (1.0 mL) solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 85 mg, 0.26 mmol) was added HATU (118 mg, 0.31 mmol) and 3-methylazetidin-3-ol 2,2,2-trifluoroacetate (63 mg, 0.31 mmol) at ambient temperature, followed by addition of DIEA (0.14 mL, 0.78 mmol) at 0° C. After stirring for 5 minutes at ambient temperature, the reaction was directly purified by reverse-phase chromatography (5 to 45% acetonitrile/water) to yield the final product as white solid (84 mg, 82%). LCMS (apci) m/z=397.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.26 mmol, 85 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.31 mmol, 118 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-methylazetidin-3-ol 2,2,2-trifluoroacetate | 0.31 mmol, 63 mg | FC(C(=O)O)(F)F.CC1(CNC1)O
reactant | DIEA | 0.78 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (R)-(5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)(3-hydroxy-3-methylazetidin-1-yl)methanone | 84 mg, 82% | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N2CC(C2)(C)O | C20H21FN6O2
